US07550478B2
Step 3: 3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one
A flask was charged with 2-[(2-methyl-5-phenylpyridin-3-yl)carbonyl]benzaldehyde (6.2 mg, 0.02 mmol) and MeOH (1 mL). LiHMDS (25 μl, 1.0 M in THF) was added and the vessel was heated in the Biotage Initiator series microwave for 30 min. at 100° C. The mixture was then diluted with EtOAc, washed with water and brine, then dried over Na2SO4. The solution was concentrated in vacuo and purified by reverse phase HPLC (0-100% CH3CN/water with a 0.1% TFA modifier) to afford the title compound. 1H NMR (600 MHz, CD3OD) δ 9.15 (d, 1H), 8.76 (d, 1H), 8.25 (d, 1H), 7.77 (m, 4H), 7.66 (t, 1H), 7.54 (t, 2H), 7.45 (m, 2H0, 7.36 (d, 1H). LRMS (APCI) calculated for C20H14NO [M+H]+, 284.1; found 283.8

reactant | 2-[(2-methyl-5-phenylpyridin-3-yl)carbonyl]benzaldehyde | 0.02 mmol, 6.2 mg | CC1=NC=C(C=C1C(=O)C1=C(C=O)C=CC=C1)C1=CC=CC=C1 | C20H15NO2
reactant | MeOH | 1 mL | CO | CH4O
reactant | LiHMDS | 1.0 M, 25 μl | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | EtOAc | CCOC(=O)C | C4H8O2
product | 3-phenyl-5H-benzo[4,5]cyclohepta[1,2-b]pyridin-5-one | C1(=CC=CC=C1)C=1C=C2C(=NC1)C=CC1=C(C2=O)C=CC=C1 | C20H13NO
